2182-01-25 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2182-1-24**] 04:30 PM
 CORDIS/INTRODUCER - STOP [**2182-1-24**] 05:35 PM
 NASAL SWAB - At [**2182-1-24**] 10:00 PM
   Admitted yesterday afternoon
   Continued to be agitated overnight, finally fell asleep at about 4am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Eptifibatide (Integrilin) - 1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-1-24**] 08:00 PM
   Metoprolol - [**2182-1-25**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-25**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 87 (78 - 112) bpm
   BP: 121/58(73) {107/50(63) - 156/86(97)} mmHg
   RR: 23 (15 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,533 mL
                                                                     46 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  1,353 mL
                                                                     46 mL
   Blood products:
   Total out:
                                                                    520 mL
                                                                    125 mL
   Urine:
                                                                    520 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,013 mL
                                                                    -79 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///17/
   Physical Examination
   GENERAL: sleeping, difficult to arouse with sternal rub but did wake up
   but then fell back to sleep
   NECK: Supple with JVP of 6 cm.
   CARDIAC: RR, normal S1, S2. 2/6 systolic murmur best heard at RUSB. No
   thrills, lifts. No S3 or S4.
   LUNGS: CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  No stasis dermatitis, ulcers, scars, or xanthomas.
   Neurologic: agitated, but neuro exam nonfocal
   Labs / Radiology
   249 K/uL
   11.1 g/dL
   211 mg/dL
   2.4 mg/dL
   17 mEq/L
   5.3 mEq/L
   53 mg/dL
   105 mEq/L
   136 mEq/L
   33.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2182-1-24**]  05:30 PM
                             [**2182-1-25**]  04:12 AM
   WBC
   9.6
   12.4
   Hct
   30.9
   33.6
   Plt
   247
   249
   Cr
   2.1
   2.4
   Glucose
   179
   211
   Other labs:
   PT / PTT / INR:14.2/28.9/1.2,
   CK:860
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   MICRO: none
   CXR from today: my read: peri-hilar fullness, bibasilar atelectasis.
   Assessment and Plan
   89 yo M with multiple CAD risk factors admitted for elective cardiac
   cath for symptoms of unstable angina. Transferred to CCU for
   peri-operative delerium.
   .
   # Delerium: Patient exhibited symptoms of delerium yesterday, including
   difficulty concentration, likely multifactorial, in the setting of
   medication effect (likely [**2-19**] benzodiazapines given peri-procedure),
   especially given stage IV chronic kidney disease and decreased
   medication clearance, age, in the setting of procedures, and lack of
   sleep. Neuro exam non-focal, so unlikely patient had thrombo-embolic
   event/CVA. No evidence of retroperitoneal bleed (no evidence of
   hypotension or hematocrit drop). Change in mental status too acute to
   be infectious in nature.  Currently patient is sleeping, difficult to
   arouse but does wake up briefly before falling asleep again.
   - NPO for now
   - continue wrist restraints
   - IV zyprexa prn for agitation
   - hold all benzos, anticholinergics
   - no head imaging required at this time
   .
   # CORONARIES: Patient with multiple risk factors for CAD including HTN,
   HLD, and CKD. 2VD on cardiac cath yesterday, including 3 tight LAD
   lesions and LCx lesions. 2 tight LAD lesions were intervened on, but
   not the third LAD lesion and the LCx lesion.  CK significantly elevated
   this AM, 152 to 860.
   - continue low dose ASA, high dose statin, metoprolol, can d/c plavix
   after a few days
   - d/c integrilin given pt
s stage IV CKD
   - hold off on lisinopril today given acute on chronic renal failure
   - Consider optimize medical treatment by adding imdur if having
   persistent chest pain
   - continue IV cefazolin x3 doses post-cath
   .
   # HYPERKALEMIA: K was 5.2 on admission, 5.9 this AM.  Not getting
   medications that increase K. ACEI has been held.  Could be secondary to
   chronic kidney disease.  EKG showed no changes.  Patient was given
   insulin, D5, kayexalate PR this AM.
   - continue to trend, get pm lytes
   - monitor glucose with insulin on board in the setting of acute on
   chronic renal failure
   .
   # Chronic Kidney Disease: Stage IV CKD, w/ Cre clearance of 23.
   Received pre-cath hydration and IV mucomyst before and after
   catherization, but creatinine still bumped from 2.1 to 2.4, concerning
   for contrast-induced nephropathy complicating CKD.  Expect to see
   worsening renal function in the next 24-48h.
   - renally dose meds
   - get pm lytes
   - monitor for acidosis
   .
   # PUMP: Right heart catherization shows elevated LVEDP, PCWPs, and PA
   pressures.  TTE from [**6-26**] showed LVEF 50-55%, but nuclear stress test
   in [**7-26**] showed LV function slightly decreased with EF of 46% and
   global hypokinesis. Patient received NS and bicarb prior to cath, s/p
   20mg IV lasix in the cath lab post-cath with I/O overall negative by
   midnight per nursing.  CXR consistent with heart failure.
   - no lasix today as pt appears euvolemic, creatinine bumped, and AS
   patients are pre-load dependent
   - continue metoprolol
   - hold off on lisinopril today given acute on chronic renal failure
   - strict I/Os
   - daily weight
   .
   # Moderate AS: Patient with echo finding of aortic valve area of
   1.0cm2. Chest pain is likely from ACS, not from AS.
   - continue beta-blocker
   - hold lisinopril given acute on chronic renal failure
   - Since patient is currently asymptomatic from moderate AS, would hold
   off on Csurg consult
   - avoid nitroglycerin given pre-load dependence from AS
   .
   # RHYTHM: Patient had sinus tachycardia on EKG on transfer to CCU,
   likely in setting of delerium, discomfort s/p procedures.  Patient was
   given metoprolol for tachycardia yesterday, he responded well to
   metoprolol.
   - continue metoprolol 12.5mg [**Hospital1 **]
   - monitor on tele
   .
   # Diabetes Mellitus: hold all home hypoglycemics while in-house,
   especially in setting of recent contrast load.
   - RISS
   .
   # Anemia: Baseline hct 30.  Currently hct is at baseline
   - trend Hct
   ICU Care
   Nutrition: NPO for now, will start cardiac healthy, diabetic, renal
   diet once delirium resolves
   Glycemic Control:  RISS
   Lines:
   22 Gauge - [**2182-1-24**] 04:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: none
   VAP:  n/a
   Comments: Bowel regimen with colace, senna
   Communication:  Comments: Wife [**Doctor First Name 189**] [**Telephone/Fax (1) 10920**]
   Code status: Full code
   Disposition: will call out to [**Hospital1 1276**] once not delirious